US05753595
Under a nitrogen atmosphere a solution of 6.0 grams (27 mmole) of 7-amino-2,6-dichlorobenzothiazole in 75 mL of N,N-dimethylformamide was stirred and cooled in an ice bath. To this was then added 4.3 grams (32 mmole) of N-chlorosuccinimide. Upon completion of the addition the reaction mixture was stirred for 20 minutes and then warmed to ambient temperature and stirred for an additional 18 hours. After this time the reaction mixture was poured into 250 mL of ice-water, and about 15 grams of lithium chloride was added, after which the reaction mixture was stirred for 30 minutes. The resulting precipitate was collected by filtration and dried under reduced pressure, yielding a dark solid, which was purified by column chromatography on silica gel. Elution was accomplished with 4:1 hexane:ethyl acetate. The product-containing fractions were combined and concentrated under reduced pressure, yielding 4.4 grams of 7-amino-2,4,6-trichlorobenzothiazole. The NMR spectrum was consistent with the proposed structure.

reactant | 7-amino-2,6-dichlorobenzothiazole | 27 mmole, 6.0 grams | NC1=C(C=CC=2N=C(SC21)Cl)Cl | C7H4Cl2N2S
reactant | N-chlorosuccinimide | 32 mmole, 4.3 grams | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | lithium chloride | about 15 grams | [Cl-].[Li+]
solvent | N,N-dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
product | 7-amino-2,4,6-trichlorobenzothiazole | 4.4 grams | NC1=C(C=C(C=2N=C(SC21)Cl)Cl)Cl | C7H3Cl3N2S
